Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
oxycodone
 
Attending: ___.
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of DM2, HTN, 
HLD
who presented initially to the ___ after experiencing
LH and palpitations without syncope. Per report she was found by
EMS to be tachycardic with a period of 2:1 conduction which
continued intermittently on telemetry at ___. She was
transferred to ___ for further electrophysiology evaluation. 
In
the ED she was mildly hypertensive and found to intermittently 
to
have bradycardia to the ___ with 2:1 conduction. 

On the floor she reports she is feeling better and confirms the
above story. She said while moving laundry and work yesterday 
she
felt lightheaded and palpitations (with a strong, not fast) 
heart
beat. She felt unwell for another 30 minutes and had to sit down
until EMS arrives. She did not syncopize and had no associated
shortness of breath. 
She does describe some band-like epigastric pressure that has 
been going on for the past year, occurs with exertion such as 
after walking up the stairs, is relieved with 10 minutes of 
rest, not acutely worsening in frequency or severity. She 
reports no fevers, tick bites, or recent outdoor activity. She 
has never fainted or
had vasovagal-type symptoms before. 

On Telemetry she was noted to have several minutes of 2:1 block
at 8:46AM but otherwise has been in sinus bradycardia in the 
___.
One strip from the ED at 20:49 shows ___ with clear PR
prolongation prior to the nonconducted P-wave and return of the
original P-wave on the next beat. 

 
Past Medical History:
- Diabetes  
- Hypertension  
- Dyslipidemia  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM
VS: T BP HR RR O2 SAT  
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: PERRL. EOMI. Conjunctiva were pink. 
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops. 
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.    

DISCHARGE EXAM
    Temp: 98.5 (Tm 98.5), BP: 127/82 (116-127/60-82), HR: 54
(53-67), RR: 20 (___), O2 sat: 99% (95-99), O2 delivery: RA,
Wt: 202.6 lb/91.9 kg  
 
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: PERRL. EOMI. Conjunctiva were pink. 
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops. 
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.    

 
Pertinent Results:
ADMISSION LABS
___ 08:47PM BLOOD WBC-7.6 RBC-5.38* Hgb-11.2 Hct-37.0 
MCV-69* MCH-20.8* MCHC-30.3* RDW-15.7* RDWSD-38.0 Plt ___
___ 08:47PM BLOOD Neuts-67.9 ___ Monos-6.4 Eos-0.1* 
Baso-0.4 Im ___ AbsNeut-5.17 AbsLymp-1.90 AbsMono-0.49 
AbsEos-0.01* AbsBaso-0.03
___ 08:47PM BLOOD Glucose-118* UreaN-13 Creat-1.0 Na-138 
K-5.0 Cl-103 HCO3-24 AnGap-11
___ 08:47PM BLOOD ALT-15 AlkPhos-92 TotBili-0.2
___ 08:47PM BLOOD cTropnT-<0.01
___ 08:47PM BLOOD Albumin-3.9 Calcium-9.5 Phos-3.7 Mg-2.1
___ 08:47PM BLOOD ASA-NEG Ethanol-NEG Tricycl-NEG

EKG ___ Sinus rhythm Nonspecific T abnormalities, diffuse 
leads

No imaging

DISCHAGRE LABS
___ 09:05AM BLOOD WBC-5.0 RBC-5.18 Hgb-10.8* Hct-36.1 
MCV-70* MCH-20.8* MCHC-29.9* RDW-15.9* RDWSD-38.6 Plt ___
___ 09:05AM BLOOD Glucose-145* UreaN-18 Creat-0.9 Na-141 
K-4.5 Cl-105 HCO3-24 AnGap-12
___ 09:05AM BLOOD cTropnT-<0.01
___ 09:05AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
====================
TRANSITIONAL ISSUES:
====================
[ ] Order outpatient stress as pt reported ___ yr of anginal like 
symptoms, would benefit from exercise pMIBI
[ ] Follow up GERD symptoms on current daily PPI BID and 
ranitidine, assess need for GI follow up
[ ] Proper PPM functioning check in 1 week
[ ] Follow up final cardiac MRI read

- New Meds: pantoprazole 40mg BID
- Stopped/Held Meds: none
- Changed Meds: none
- Follow-up appointments: PCP, EP device clinic, cardiology
- Post-Discharge Follow-up Labs Needed: none
- Incidental Findings: none
- Discharge weight: 91.9kg
- Discharge creatinine: 0.9

# CODE STATUS: Full (presumed)
# CONTACT: Evns (husband) - ___

====================
PATIENT SUMMARY:
====================
Ms. ___ is a ___ year old woman with a history of DM2, HTN, 
HLD who presented initially to the ___ after 
experiencing LH and palpitations without syncope. Found to have 
inducible 2:1 conduction and intermittent bradycardia to the 
___, concerning for infranodal disease now s/p dual chamber PPM. 
Unclear etiology for conduction disease. 

====================
ACUTE ISSUES:
====================
# Lightheadedness 
# 2:___lock concerning for infranodal disease
Pt presented initially to the ___ after experiencing 
LH and palpitations without syncope, found to have bradycardia 
with 2:1 2nd degree heart block on telemetry. Strips have shown 
PR prolongation prior to the nonconducted P-wave and return of 
the original P-wave on the next beat, suggesting possible 
component of AV nodal as well as infranodal disease given 
induction of 2:1 block with exertion. Ddx includes idiopathic vs 
reversible causes of new AV block: Lyme and sarcoid were high on 
ddx, now lyme ab negative (prophylaxis 2gIV ceftriaxone 
(___), CXR and TTE unremarkable. TSH wnl. CRP 
elevated to 12.1 which could be elevated in setting of infection 
or inflammation. Hemochromatosis unlikely with normal ferritin, 
iron studies. Cardiac MRI wet read with no concerning substrate 
and TTE unremarkable. She had a dual chamber ___ 
pacemaker implanted on ___ and was discharged home ___ with 
plan to follow up in device clinic in 1 week and EP with Dr. 
___ 5 months. 

# GERD
# Epigastric pain
This has been chronic issue for months, pt reports intermittent 
epigastric pain often brought on by eating with feeling of 
something being stuck in her chest, worse when lying down. 
Obtained ___ records, had EGD done ___ that showed grade I 
esophagitis and non-erosive gastropathy. H.pylori Ag neg and 
path normal. Per Dr. ___ note she has failed 2 PPI 
therapy regimens and was started on 150 ranitidine daily. Will 
continue her on 40mg pantoprazole BID and add on ranitidine 
150mg ___ counsel on proper timing of taking PPI. She was 
started on 40mg pantoprazole BID in addition to ranitidine 150mg 
___. Will require follow up of her symptoms to determine if GI 
referral needed.

====================
CHRONIC ISSUES:
====================
# HTN
Continued home amlodipine and lisinopril 

# Type 2 DM
Started on ISS, discharged on home metformin 

# HLD
Continued home atorvastatin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Lisinopril 2.5 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. amLODIPine 2.5 mg PO DAILY 
5. Ranitidine 150 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Docusate Sodium 100 mg PO DAILY:PRN Constipation - First Line 


 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*3 
2.  amLODIPine 2.5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - First 
Line  
6.  Lisinopril 2.5 mg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO BID  
8.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
___ type II atriventricular block

SECONDARY DIAGNOSIS:
Hypertension
Diabetes mellitus type II
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

___ was a pleasure taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted to the hospital because you had 
lightheadedness and a slow heart rate

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You were kept on a heart monitor to evaluate the rhythm in 
your heart and were found to have a block in the electricity of 
your heart
- You had an ultrasound and MRI of your heart that were normal
- You had a pacemaker put in to prevent your heart from going 
too slow

WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take your medications as prescribed. 
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that isnt getting 
better with rest or nitroglycerine you should call ___.  
- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.
- You should attend the appointments listed below.  
- Weigh yourself every morning, call your doctor if your weight 
goes up more than 3 lbs.  
- Your discharge weight: 91.9kg. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!  
Your ___ Care Team

 
Followup Instructions:
___